US05593970
Step 1: 3-carbomethoxy-5,8-dimethoxyisothiochroman
1,4-dimethoxy-2,3-dibromomethylbenzene (10.0 g, 30.88 mmol) was dissolved in CH2Cl2 and MeOH (750 ml, 6:4) followed by addition of ethyl 2-mercaptoacetate (4.02 ml, 37.06 mmol) with stirring under argon. The mixture was then cooled to 0° C. followed by dropwise addition of sodium methoxide (4.37M, 8.5 ml, 37.06 mmol) over a period of 2 h using an automatic syringe pump. After 5 minutes the solvent was evaporated and the crude was redissolved in THF (400 ml) and cooled to 0° C. again. NaOEt (2.10 g, 30.88 mmol) was then added. The ice bath was removed and the reaction was stirred for 2 more hours. The reaction mixture was then quenched with NH4Cl (sat.) and extracted with ether. The organic phases were combined, dried over MgSO4, filtered and concentrated. The crude residue was then treated with NaOME in MeOH and THF at 0° C. for 2 hours. The reaction mixture was extracted with ether (100 ml×2). The combined organic phases were washed with H2O, dried over MgSO4, filtered and concentrated to a residue that was purified by flash chromatography to give title compound in 45% yield. 1H NMR (300 MHz, CDCl3, ppm) d:2.97 (dd, 1H, J=16.51, 8.79 Hz, HCHaCHC=O), 3.36 (dd, 1H, J=16.7, 5.1 Hz, HCHeCHC=O), 3.73 (m, 2H, HCHa,e--O), 3.75 (s, 3H, OCH3), 3.78 (s, 6H, 2×OCH3), 3.85 (m, 1H, HC--S), 6.69 (m, 2H, ArH).

reactant | 1,4-dimethoxy-2,3-dibromomethylbenzene | 30.88 mmol, 10.0 g | COC1=C(C(=C(C=C1)OC)CBr)CBr | C10H12Br2O2
reactant | ethyl 2-mercaptoacetate | 37.06 mmol, 4.02 ml | SCC(=O)OCC | C4H8O2S
reactant | sodium methoxide | 37.06 mmol, 4.37M, 8.5 ml | C[O-].[Na+]
reactant | NaOEt | 30.88 mmol, 2.10 g | CC[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 750 ml | CO | CH4O
product | 3-carbomethoxy-5,8-dimethoxyisothiochroman | 45% yield | C(=O)(OC)C1SCC2=C(C=CC(=C2C1)OC)OC | C13H16O4S
